US05219871
Preparation of 2,2-diphenyl-5-[N-methyl-N-(4-methoxycarbonylmethylphenethyl)amino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.56 g-see Preparation 3), methyl 4-(2-bromoethyl)phenylacetate (0.51 g-see Preparation 22), anhydrous potassium carbonate (0.6 g) and acetonitrile (20 ml) was heated under reflux for 5.5 hours. The mixture was partitioned between dichloromethane (70 ml) and 10% aqueous potassium carbonate (50 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing hexane (50%) then with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield 0.2 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.56 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | methyl 4-(2-bromoethyl)phenylacetate | 0.51 g | BrCCC1=CC=C(C=C1)CC(=O)OC | C11H13BrO2
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-methyl-N-(4-methoxycarbonylmethylphenethyl)amino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(CCC1=CC=C(C=C1)CC(=O)OC)C)C1=CC=CC=C1 | C29H34N2O3
